US03985740
C. 4-methylthiazole-2-thiocarboxylic acid dicyclohexylamine salt
A mixture of 10 g. (0.07 moles) of 4-methyl-2-carboxythiazole and 50 ml. of thionyl chloride was refluxed for 22 hours and stirred for 72 hours at room temperature. The reaction mixture was concentrated under reduced pressure to a yellow oil which was flushed 2 times with methylene chloride. This acid chloride was slurried in 10 ml. of benzene. Not all went in solution and the insoluble material was removed by filtration. The benzene filtrate was added dropwise to a stirred, cooled and filtered solution of 15.4 g. (0.14 mole) of hydrated sodium sulfhydrate in 158 ml. of ethanol and 17.5 ml. of water at such a rate as to keep the temperature of the mixture at 10°-15°. After the addition was completed, the reaction mixture was stirred for 40 minutes at 5°-10° C. Most of the ethanol was removed under reduced pressure and the residue was dissolved in 90 ml. of water. The pH of the solution was lowered to 2.8 by addition of 6N hydrochloric acid and was maintained there while the mixture was extracted with 5 × 100 ml. of ethyl acetate. The extracts were combined, washed with ice water, dried over magnesium sulfate, filtered and evaporated to dryness to give a reddish solid. This was weighed, redissolved in 50 ml. of hot ethyl acetate and one equivalent of dicyclohexylamine was added. After a small amount of ether was added, crystals precipitated. After cooling for 1 hour they were removed by filtration, washed with ether and dried under high vacuum to give 10.81 g. (45.5%) of a yellow solid. NMR spectrum was consistent with the desired material.

reactant | 4-methyl-2-carboxythiazole | 0.07 moles | CC=1N=C(SC1)C(=O)O | C5H5NO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
reactant | dicyclohexylamine | one equivalent | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-methylthiazole-2-thiocarboxylic acid dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.CC=1N=C(SC1)C(O)=S | InChI=1S/C12H23N.C5H5NOS2/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-3-2-9-4(6-3)5(7)8/h11-13H,1-10H2;2H,1H3,(H,7,8)
